US06921821B2
(S)-Methyl-3-[(2-methoxycarbonylethyl)-(1-naphthalen-2-yl-ethyl)-amino]-propanoate
(S)-(−)-1-(2-Naphthyl)ethylamine (2.28 g, 13 mmol) was added dropwise to a solution of methyl acrylate (5 mL, 55 mmol) and acetic acid (0.26 mL) with stirring in a sealed tube. A white crystalline solid precipitated out of solution. The temperature was then elevated to 80° C., at which time a clear solution was formed again. Stirring was continued for 18 hours. Excess methyl acrylate and acetic acid were removed under reduced pressure. The crude oil was purified by chromatography on silica gel with ethyl acetate/hexanes (1:4) to give the title compound (3.6 g, 77%) as a pale yellow oil. 1H NMR (300 MHz, CDCl3) δ 1.45 (3H, d, J=6.78 Hz), 2.45 (4H, t, J=7.35 Hz), 2.73-2.94 (4H, m), 3.62 (6H, s), 4.00 (1H, q, J=6.78 Hz), 7.41-7.53 (3H, m), 7.70-7.84 (4H, m).

reactant | (S)-(−)-1-(2-Naphthyl)ethylamine | 13 mmol, 2.28 g | C1=C(C=CC2=CC=CC=C12)[C@H](C)N | C12H13N
reactant | methyl acrylate | 55 mmol, 5 mL | C(C=C)(=O)OC | C4H6O2
solvent | acetic acid | 0.26 mL | C(C)(=O)O | C2H4O2
product | (S)-Methyl-3-[(2-methoxycarbonylethyl)-(1-naphthalen-2-yl-ethyl)-amino]-propanoate | 3.6 g, 77% | COC(CCN([C@@H](C)C1=CC2=CC=CC=C2C=C1)CCC(=O)OC)=O | C20H25NO4
